*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:28:36 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "MX3XL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  MX3XL A Y C B S0 S1
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 2.70712e-16
*|P (A X 0 2.3000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 2.2825 0.4275)
*|I (Mmp2:g Mmp2 g X 0 2.2825 1.3425)
*|S (A:2 2.3200 0.7700)
*|S (A:4 2.3200 0.7700)
C1 Mmp2:g VSS 5.43003e-17
C2 Mmn2:g VSS 4.25305e-17
C3 A:2 VSS 1.40977e-16
C4 A VSS 3.29042e-17
Rl1 A:2 Mmn2:g 89.617439 $W=0.039
Rl2 Mmp2:g A:2 164.617447 $W=0.039
Rk3 A A:4 0.054471 $W=0.1
Rk4 A:2 A:4 45.000000 $W=0.1
*
*|NET Y 1.45952e-16
*|P (Y X 0 0.1000 0.4750)
*|I (Mmn9:d Mmn9 d X 0 0.1525 0.4575)
*|I (Mmp9:d Mmp9 d X 0 0.1275 1.3075)
C5 Mmp9:d VSS 6.56396e-17
C6 Y VSS 8.03123e-17
Rk5 Y Mmn9:d 75.002708 $W=0.1
Rk6 Mmp9:d Y 62.559395 $W=0.09
*
*|NET C 3.24606e-16
*|P (C X 0 0.3000 1.0450)
*|I (Mmn7:g Mmn7 g X 0 0.4625 0.4575)
*|I (Mmp7:g Mmp7 g X 0 0.4425 1.3075)
*|S (C:2 0.4525 0.8250)
*|S (C:3 0.3800 0.8250)
C7 Mmp7:g VSS 6.80112e-17
C8 Mmn7:g VSS 5.00236e-17
C9 C:3 VSS 1.4314e-16
C10 C VSS 6.34317e-17
Rl7 C:2 C:3 52.264359 $W=0.094
Rl8 Mmn7:g C:2 115.103134 $W=0.039
Rl9 C:2 Mmp7:g 145.872375 $W=0.039
Rk10 C:3 C 0.153165 $W=0.1
*
*|NET B 2.98896e-16
*|P (B X 0 1.5000 0.6650)
*|I (Mmn4:g Mmn4 g X 0 1.5925 0.4275)
*|I (Mmp4:g Mmp4 g X 0 1.5925 1.3425)
*|S (B:2 1.5925 0.7150)
*|S (B:3 1.5150 0.7150)
C11 Mmp4:g VSS 6.47885e-17
C12 Mmn4:g VSS 3.71104e-17
C13 B:2 VSS 3.5378e-17
C14 B:3 VSS 1.25287e-16
C15 B VSS 3.63317e-17
Rl11 B:2 B:3 49.314430 $W=0.094
Rl12 B:2 Mmn4:g 78.560280 $W=0.039
Rl13 Mmp4:g B:2 195.867966 $W=0.039
Rk14 B B:3 0.029106 $W=0.105
*
*|NET S0 4.73234e-16
*|P (S0 X 0 2.5000 1.0450)
*|I (Mmn5:g Mmn5 g X 0 1.8625 0.4275)
*|I (Mmn0:g Mmn0 g X 0 2.5175 0.4275)
*|I (Mmp3:g Mmp3 g X 0 2.0325 1.3425)
*|I (Mmp0:g Mmp0 g X 0 2.5175 1.3425)
*|S (S0:2 1.9950 0.8500)
*|S (S0:5 2.4900 1.0400)
*|S (S0:7 2.4900 1.0400)
C16 Mmp0:g VSS 3.354e-17
C17 Mmp3:g VSS 4.87036e-17
C18 Mmn0:g VSS 4.85901e-17
C19 Mmn5:g VSS 4.96953e-17
C20 S0:2 VSS 1.67663e-16
C21 S0:5 VSS 4.72226e-17
C22 S0 VSS 7.78197e-17
Rl15 S0:2 Mmn5:g 148.616348 $W=0.039
Rl16 S0:5 Mmn0:g 194.922546 $W=0.039
Rl17 Mmp3:g S0:2 133.848206 $W=0.039
Rl18 Mmp0:g S0:5 62.230240 $W=0.039
Rk19 S0 S0:2 45.459991 $W=0.072
Rk20 S0:7 S0 0.003006 $W=0.1
Rk21 S0:5 S0:7 45.000000 $W=0.125
*
*|NET S1 4.52896e-16
*|P (S1 X 0 1.3000 0.6650)
*|I (Mmn8:g Mmn8 g X 0 0.6625 0.4575)
*|I (Mmn1:g Mmn1 g X 0 1.3875 0.4275)
*|I (Mmp6:g Mmp6 g X 0 0.8325 1.3075)
*|I (Mmp1:g Mmp1 g X 0 1.3875 1.3425)
*|S (S1:2 1.3100 1.0100)
*|S (S1:3 0.8325 1.0475)
C23 Mmp1:g VSS 3.4001e-17
C24 Mmp6:g VSS 3.2994e-17
C25 Mmn1:g VSS 6.03768e-17
C26 Mmn8:g VSS 5.7252e-17
C27 S1:3 VSS 7.60889e-17
C28 S1:2 VSS 1.26039e-16
C29 S1 VSS 6.61442e-17
Rl22 S1:2 S1:3 162.375854 $W=0.039
Rl23 S1:3 Mmn8:g 244.953033 $W=0.039
Rl24 S1:2 Mmn1:g 180.129944 $W=0.039
Rl25 S1:3 Mmp6:g 56.925838 $W=0.039
Rl26 Mmp1:g S1:2 78.823349 $W=0.039
Rk27 S1 S1:2 45.206284 $W=0.1
*
*|NET n1 3.95806e-16
*|I (Mmn9:g Mmn9 g X 0 0.2575 0.4575)
*|I (Mmn8:d Mmn8 d X 0 0.8000 0.4575)
*|I (Mmp9:g Mmp9 g X 0 0.2375 1.3075)
*|I (Mmp8:d Mmp8 d X 0 0.7000 1.3075)
*|S (n1:2 0.2475 0.6350)
*|S (n1:4 0.3200 0.6350)
*|S (n1:6 0.5400 0.6350)
C30 Mmp8:d VSS 8.08269e-17
C31 Mmp9:g VSS 5.56961e-17
C32 Mmn8:d VSS 5.96382e-17
C33 Mmn9:g VSS 2.79255e-17
C34 n1:6 VSS 6.01785e-17
C35 n1:2 VSS 6.39388e-17
C36 n1:4 VSS 4.76024e-17
Rl28 n1:2 n1:4 52.264359 $W=0.094
Rl29 Mmn9:g n1:2 42.026211 $W=0.039
Rl30 n1:2 Mmp9:g 218.949295 $W=0.039
Rk31 n1:6 n1:4 0.170561 $W=0.08
Rk32 Mmn8:d n1:6 75.281471 $W=0.09
Rk33 n1:6 Mmp8:d 62.498592 $W=0.09
*
*|NET net245 0
*|I (Mmn7:d Mmn7 d X 0 0.5625 0.4575)
*|I (Mmn8:s Mmn8 s X 0 0.5625 0.4575)
Rmw34 Mmn8:s Mmn7:d 0.001000 $W=1
*
*|NET n0 5.48382e-16
*|I (Mmn6:s Mmn6 s X 0 1.0525 0.4575)
*|I (Mmn5:d Mmn5 d X 0 1.9675 0.4275)
*|I (Mmp6:d Mmp6 d X 0 0.9825 1.3075)
*|I (Mmp5:d Mmp5 d X 0 1.9225 1.3425)
*|S (n0:2 1.6750 1.2000)
*|S (n0:3 1.1250 1.2000)
C37 Mmp5:d VSS 3.31828e-17
C38 Mmp6:d VSS 3.09108e-17
C39 Mmn5:d VSS 1.08531e-16
C40 Mmn6:s VSS 1.10202e-16
C41 n0:3 VSS 1.14218e-16
C42 n0:2 VSS 1.51337e-16
Rk35 n0:2 n0:3 0.368335 $W=0.08
Rk36 n0:3 Mmn6:s 75.559067 $W=0.09
Rk37 Mmn5:d n0:2 75.734673 $W=0.09
Rk38 n0:3 Mmp6:d 62.101894 $W=0.06
Rk39 n0:2 Mmp5:d 62.215836 $W=0.0915
*
*|NET S1b 5.69014e-16
*|I (Mmn6:g Mmn6 g X 0 0.9375 0.4575)
*|I (Mmn1:d Mmn1 d X 0 1.2950 0.4275)
*|I (Mmp8:g Mmp8 g X 0 0.5675 1.3075)
*|I (Mmp1:d Mmp1 d X 0 1.2950 1.3425)
*|S (S1b:1 0.7000 1.0700)
*|S (S1b:4 0.9650 0.6900)
*|S (S1b:6 0.8600 1.0400)
C43 Mmp1:d VSS 8.47815e-17
C44 Mmp8:g VSS 4.82234e-17
C45 Mmn1:d VSS 8.32587e-17
C46 Mmn6:g VSS 3.39992e-17
C47 S1b:6 VSS 9.01094e-17
C48 S1b:1 VSS 8.68899e-17
C49 S1b:4 VSS 1.41752e-16
Rl40 Mmn6:g S1b:4 93.768700 $W=0.039
Rl41 S1b:1 Mmp8:g 105.580063 $W=0.039
Rk42 S1b:6 S1b:4 0.303264 $W=0.09
Rk43 S1b:6 S1b:1 0.113319 $W=0.1
Rk44 S1b:4 Mmn1:d 75.631630 $W=0.08
Rk45 Mmp1:d S1b:6 62.542622 $W=0.09
*
*|NET net234 6.47174e-18
*|I (Mmn4:d Mmn4 d X 0 1.7275 0.4275)
*|I (Mmn5:s Mmn5 s X 0 1.7275 0.4275)
C50 Mmn4:d VSS 6.47174e-18
Rmw46 Mmn5:s Mmn4:d 0.001000 $W=1
*
*|NET net229 0
*|I (Mmn3:s Mmn3 s X 0 2.1775 0.4275)
*|I (Mmn2:d Mmn2 d X 0 2.1775 0.4275)
Rmw47 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET S0b 5.24094e-16
*|I (Mmn3:g Mmn3 g X 0 2.0725 0.4275)
*|I (Mmn0:d Mmn0 d X 0 2.6350 0.4275)
*|I (Mmp5:g Mmp5 g X 0 1.8125 1.3425)
*|I (Mmp0:d Mmp0 d X 0 2.6350 1.3425)
*|S (S0b:2 1.8650 1.0400)
*|S (S0b:4 2.0450 0.6600)
*|S (S0b:6 2.6700 0.6100)
C51 Mmp0:d VSS 5.99727e-17
C52 Mmp5:g VSS 4.00153e-17
C53 Mmn0:d VSS 1.66242e-17
C54 Mmn3:g VSS 4.84303e-17
C55 S0b:6 VSS 7.6655e-17
C56 S0b:2 VSS 1.19262e-16
C57 S0b:4 VSS 1.63135e-16
Rl48 Mmn3:g S0b:4 93.768700 $W=0.039
Rl49 Mmp5:g S0b:2 113.227760 $W=0.039
Rk50 S0b:4 S0b:2 0.461224 $W=0.08
Rk51 S0b:6 S0b:4 0.454301 $W=0.08
Rk52 S0b:6 Mmn0:d 75.124763 $W=0.1
Rk53 Mmp0:d S0b:6 62.489635 $W=0.09
*
*|NET net202 1.41866e-18
*|I (Mmp7:d Mmp7 d X 0 0.5050 1.3075)
*|I (Mmp8:s Mmp8 s X 0 0.5050 1.3075)
C58 Mmp7:d VSS 1.41866e-18
Rmw54 Mmp8:s Mmp7:d 0.001000 $W=1
*
*|NET net190 5.16041e-18
*|I (Mmp4:d Mmp4 d X 0 1.7025 1.3425)
*|I (Mmp5:s Mmp5 s X 0 1.7025 1.3425)
C59 Mmp4:d VSS 5.16041e-18
Rmw55 Mmp5:s Mmp4:d 0.001000 $W=1
*
*|NET net189 0
*|I (Mmp3:s Mmp3 s X 0 2.1575 1.3425)
*|I (Mmp2:d Mmp2 d X 0 2.1575 1.3425)
Rmw56 Mmp2:d Mmp3:s 0.001000 $W=1
*
*Instance Section
*
Mmn9	Mmn9:d	Mmn9:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02392P	AS=0.0232P	PD=0.62U	PS=0.61U
+ fw=1.45e-07 sa=1.65e-07 sb=8.65e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn7	Mmn7:d	Mmn7:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02247P	AS=0.0232P	PD=0.6U	PS=0.61U
+ fw=1.45e-07 sa=3.7e-07 sb=6.6e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn8	Mmn8:d	Mmn8:g	Mmn8:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03335P	AS=0.02247P	PD=0.75U	PS=0.6U
+ fw=1.45e-07 sa=5.7e-07 sb=4.6e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn6	Mmn8:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03335P	AS=0.02682P	PD=0.75U	PS=0.66U
+ fw=1.45e-07 sa=8.45e-07 sb=1.85e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=1.32e-06 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03262P	AS=0.0232P	PD=0.74U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=1.115e-06 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn5	Mmn5:d	Mmn5:g	Mmn5:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02392P	AS=0.03262P	PD=0.62U	PS=0.74U
+ fw=1.45e-07 sa=6.15e-07 sb=8.45e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn3	Mmn5:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02392P	AS=0.02392P	PD=0.62U	PS=0.62U
+ fw=1.45e-07 sa=8.25e-07 sb=6.35e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02392P	AS=0.02755P	PD=0.62U	PS=0.67U
+ fw=1.45e-07 sa=1.035e-06 sb=4.25e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02755P	AS=0.02755P	PD=0.67U	PS=0.67U
+ fw=1.45e-07 sa=1.27e-06 sb=1.9e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmp9	Mmp9:d	Mmp9:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03762P	AS=0.0344P	PD=0.78U	PS=0.75U
+ fw=2.15e-07 sa=1.75e-07 sb=8.5e-07 sca=20.5682 scb=0.0225705 scc=0.000868063
Mmp7	Mmp7:d	Mmp7:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0172P	AS=0.0344P	PD=0.59U	PS=0.75U
+ fw=2.15e-07 sa=3.8e-07 sb=6.45e-07 sca=13.1728 scb=0.010661 scc=9.76612e-05
Mmp8	Mmp8:d	Mmp8:g	Mmp8:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0473P	AS=0.0172P	PD=0.87U	PS=0.59U
+ fw=2.15e-07 sa=5.05e-07 sb=5.2e-07 sca=11.7475 scb=0.00853026 scc=7.76573e-05
Mmp6	Mmp6:d	Mmp6:g	Mmp8:d	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05483P	AS=0.0473P	PD=0.94U	PS=0.87U
+ fw=2.15e-07 sa=7.7e-07 sb=2.55e-07 sca=10.4608 scb=0.00746151 scc=7.53855e-05
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.32e-06 sca=10.1615 scb=0.00737933 scc=7.53706e-05
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03762P	AS=0.0344P	PD=0.78U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.115e-06 sca=10.1615 scb=0.00737933 scc=7.53706e-05
Mmp5	Mmp5:d	Mmp5:g	Mmp5:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03762P	AS=0.03762P	PD=0.78U	PS=0.78U
+ fw=2.15e-07 sa=5.65e-07 sb=8.95e-07 sca=10.1615 scb=0.00737933 scc=7.53706e-05
Mmp3	Mmp5:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03762P	AS=0.04408P	PD=0.78U	PS=0.84U
+ fw=2.15e-07 sa=7.85e-07 sb=6.75e-07 sca=10.666 scb=0.00755422 scc=7.54245e-05
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04407P	AS=0.04085P	PD=0.84U	PS=0.81U
+ fw=2.15e-07 sa=1.035e-06 sb=4.25e-07 sca=12.2076 scb=0.00914458 scc=8.10906e-05
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04085P	AS=0.04085P	PD=0.81U	PS=0.81U
+ fw=2.15e-07 sa=1.27e-06 sb=1.9e-07 sca=17.7662 scb=0.0185292 scc=0.000446955
.ENDS
.END
