*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:29:31 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "MXI2X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  MXI2X4 B S0 Y A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B 2.71614e-16
*|P (B X 0 1.5000 1.0450)
*|I (Mmn3:g Mmn3 g X 0 1.3475 0.3325)
*|I (Mmp3:g Mmp3 g X 0 1.4425 1.2425)
*|S (B:2 1.4800 0.8600)
C1 Mmp3:g VSS 4.07188e-17
C2 Mmn3:g VSS 5.95043e-17
C3 B:2 VSS 1.7139e-16
Rl1 B:2 Mmn3:g 189.938736 $W=0.039
Rl2 Mmp3:g B:2 91.540520 $W=0.039
Rk3 B B:2 45.002510 $W=0.49
*
*|NET S0 5.67101e-16
*|P (S0 X 0 0.3000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.3375 0.3325)
*|I (Mmn4:g Mmn4 g X 0 1.1975 0.3325)
*|I (Mmp0:g Mmp0 g X 0 0.2825 1.2425)
*|I (Mmp2:g Mmp2 g X 0 0.8125 1.2425)
*|S (S0:2 0.3100 1.0250)
*|S (S0:5 0.8400 0.9850)
*|S (S0:7 1.1600 0.6550)
C4 Mmp2:g VSS 4.37536e-17
C5 Mmp0:g VSS 2.52428e-17
C6 Mmn4:g VSS 5.49882e-17
C7 Mmn0:g VSS 5.72698e-17
C8 S0:2 VSS 1.22137e-16
C9 S0:5 VSS 1.35574e-16
C10 S0:7 VSS 1.28136e-16
Rl4 Mmn0:g S0:2 226.923080 $W=0.039
Rl5 Mmn4:g S0:7 126.925140 $W=0.039
Rl6 S0:2 Mmp0:g 29.945055 $W=0.039
Rl7 Mmp2:g S0:5 89.922546 $W=0.039
Rk8 S0:5 S0 0.495510 $W=0.09
Rk9 S0:7 S0:5 0.499740 $W=0.08
Rk10 S0 S0:2 45.011993 $W=0.08
*
*|NET Y 3.42219e-16
*|P (Y X 0 1.9000 0.8550)
*|I (Mmn6@1:d Mmn6@1 d X 0 1.8300 0.3900)
C11 Mmn6@1:d VSS 1.28187e-16
C12 Y VSS 2.14032e-16
Rk11 Y Mmn6@1:d 0.230136 $W=0.1
*
*|NET A 2.58885e-16
*|P (A X 0 0.5000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.5425 0.3325)
*|I (Mmp1:g Mmp1 g X 0 0.5425 1.2425)
*|S (A:2 0.5150 0.7000)
C13 Mmp1:g VSS 5.09972e-17
C14 Mmn1:g VSS 3.87672e-17
C15 A:2 VSS 1.07135e-16
C16 A VSS 6.19858e-17
Rl12 A:2 Mmn1:g 100.691772 $W=0.039
Rl13 Mmp1:g A:2 154.537933 $W=0.039
Rk14 A:2 A 45.039383 $W=0.25
*
*|NET S0b 4.26598e-16
*|I (Mmn0:d Mmn0 d X 0 0.2450 0.3325)
*|I (Mmn2:g Mmn2 g X 0 0.9725 0.3325)
*|I (Mmp0:d Mmp0 d X 0 0.1750 1.2425)
*|I (Mmp4:g Mmp4 g X 0 1.0275 1.2425)
*|S (S0b:2 1.0000 0.8250)
*|S (S0b:4 0.2350 0.5100)
C17 Mmp4:g VSS 4.14344e-17
C18 Mmp0:d VSS 5.97159e-17
C19 Mmn2:g VSS 4.11842e-17
C20 Mmn0:d VSS 2.07262e-17
C21 S0b:4 VSS 1.19477e-16
C22 S0b:2 VSS 1.4406e-16
Rl15 S0b:2 Mmn2:g 149.175827 $W=0.039
Rl16 Mmp4:g S0b:2 107.692307 $W=0.039
Rk17 S0b:2 S0b:4 45.769833 $W=0.08
Rk18 S0b:4 Mmn0:d 75.097000 $W=0.09
Rk19 S0b:4 Mmp0:d 62.583183 $W=0.09
*
*|NET n3 0
*|I (Mmn1:d Mmn1 d X 0 0.7575 0.3325)
*|I (Mmn2:s Mmn2 s X 0 0.7575 0.3325)
Rmw20 Mmn2:s Mmn1:d 0.001000 $W=1
*
*|NET n0 7.31299e-16
*|I (Mmn2:d Mmn2 d X 0 1.0850 0.3325)
*|I (Mmn5:g Mmn5 g X 0 2.7825 0.3900)
*|I (Mmp2:d Mmp2 d X 0 0.9200 1.2425)
*|I (Mmp5:g Mmp5 g X 0 2.5225 1.1550)
*|S (n0:2 2.5600 0.6450)
*|S (n0:4 1.3200 0.5100)
C23 Mmp5:g VSS 5.74692e-17
C24 Mmp2:d VSS 9.64661e-17
C25 Mmn5:g VSS 3.54706e-17
C26 Mmn2:d VSS 3.19025e-17
C27 n0:4 VSS 2.73433e-16
C28 n0:2 VSS 2.36558e-16
Rl21 Mmn5:g n0:2 96.693260 $W=0.039
Rl22 n0:2 Mmp5:g 106.925133 $W=0.039
Rk23 n0:2 n0:4 46.261353 $W=0.08
Rk24 n0:4 Mmn2:d 75.263039 $W=0.1
Rk25 n0:4 Mmp2:d 62.806999 $W=0.09
*
*|NET n5 3.47383e-18
*|I (Mmn4:s Mmn4 s X 0 1.2725 0.3325)
*|I (Mmn3:d Mmn3 d X 0 1.2725 0.3325)
C29 Mmn4:s VSS 3.47383e-18
Rmw26 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET n1 4.81497e-16
*|I (Mmn6@1:g Mmn6@1 g X 0 1.7275 0.3900)
*|I (Mmn5:d Mmn5 d X 0 2.8750 0.3900)
*|I (Mmp5:d Mmp5 d X 0 2.6150 1.1550)
*|S (n1:17 2.6250 0.8350)
C30 Mmp5:d VSS 4.49428e-17
C31 Mmn5:d VSS 4.78445e-17
C32 Mmn6@1:g VSS 3.42906e-16
C33 n1:17 VSS 4.58029e-17
Rk27 n1:17 Mmn6@1:g 45.182919 $W=0.09
Rk28 n1:17 Mmn5:d 75.422562 $W=0.09
Rk29 n1:17 Mmp5:d 20.878428 $W=0.09
*
*|NET n4 0
*|I (Mmp1:d Mmp1 d X 0 0.6775 1.2425)
*|I (Mmp2:s Mmp2 s X 0 0.6775 1.2425)
Rmw30 Mmp2:s Mmp1:d 0.001000 $W=1
*
*|NET n6 1.14139e-17
*|I (Mmp4:s Mmp4 s X 0 1.2350 1.2425)
*|I (Mmp3:d Mmp3 d X 0 1.2350 1.2425)
C34 Mmp4:s VSS 1.14139e-17
Rmw31 Mmp3:d Mmp4:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=2e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.05582P	AS=0.0232P	PD=1.06U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=2e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn2	Mmn2:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0261P	AS=0.05582P	PD=0.65U	PS=1.06U
+ fw=1.45e-07 sa=7.75e-07 sb=1.95e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn4	Mmn2:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0261P	AS=0.01522P	PD=0.65U	PS=0.5U
+ fw=1.45e-07 sa=1e-06 sb=1.725e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01522P	AS=0.06007P	PD=0.5U	PS=1.19U
+ fw=1.45e-07 sa=1.15e-06 sb=1.575e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0832P	PD=0.8U	PS=1.16U
+ fw=2.6e-07 sa=1.62625e-06 sb=1.4e-07 sca=8.65991 scb=0.00681295 scc=0.000165238
Mmn6@1	Mmn6@1:d	Mmn6@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.04355P	AS=0.07522P	PD=0.855U	PS=1.2475U	M=4
+ fw=2.6e-07 sa=8.975e-07 sb=1.195e-06 sca=8.65991 scb=0.00681295 scc=0.000165238
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03655P	AS=0.04623P	PD=0.77U	PS=0.86U
+ fw=2.15e-07 sa=1.7e-07 sb=2e-06 sca=18.506 scb=0.019899 scc=0.000532288
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04837P	AS=0.04623P	PD=0.88U	PS=0.86U
+ fw=2.15e-07 sa=4.3e-07 sb=2e-06 sca=12.703 scb=0.0101766 scc=0.000164323
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03655P	AS=0.04837P	PD=0.77U	PS=0.88U
+ fw=2.15e-07 sa=7e-07 sb=1.85e-06 sca=11.2588 scb=0.00885445 scc=0.000160725
Mmp4	Mmp2:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03655P	AS=0.07955P	PD=0.77U	PS=1.17U
+ fw=2.15e-07 sa=9.15e-07 sb=1.635e-06 sca=10.9013 scb=0.00874909 scc=0.000160703
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.07955P	AS=0.05835P	PD=1.17U	PS=1.16U
+ fw=2.15e-07 sa=1.33e-06 sb=1.22e-06 sca=10.9013 scb=0.00874909 scc=0.000160703
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0624P	PD=1.06U	PS=1.1U
+ fw=3.9e-07 sa=1.5266e-06 sb=1.4e-07 sca=20.2961 scb=0.018091 scc=0.00149586
Mmp6@1	Y	Mmn6@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.06727P	AS=0.06139P	PD=1.125U	PS=1.115U	M=4
+ fw=3.9e-07 sa=9.07628e-07 sb=9.85e-07 sca=17.7856 scb=0.015626 scc=0.00148402
.ENDS
.END
